US04634716
N-α-CBZ, N- -BOC-L-lysine and ethyl-2-pyrrolidineacetate are condensed by the procedure of Example 1, Step C to give N-α-CBZ, N- -BOC-L-lysyl-(S)-2-pyrrolidine acetic acid ethyl ester. The N-α-CBZ group is removed by hydrogenolysis in ethanol containing one equivalent of acetic acid over 10% palladium on charcoal utilizing the procedure of P. G. Katsoyannis and G. P. Schwartz, Methods in Enzymology, 47, 546 (1974), to give N- -BOC-L-lysyl-(S)-2-pyrrolidineacetic acid ethyl ester.

reactant | N- -BOC-L-lysine | C(=O)(OC(C)(C)C)N[C@@H](CCCCN)C(=O)O | C11H22N2O4
reactant | ethyl-2-pyrrolidineacetate | C(C)OC(CC1NCCC1)=O | C8H15NO2
product | N- -BOC-L-lysyl-(S)-2-pyrrolidine acetic acid ethyl ester | C(C)OC(C[C@H]1N(CCC1)C([C@@H](NC(=O)OC(C)(C)C)CCCCN)=O)=O | C19H35N3O5
